US07381738B2
Part A. Preparation of 4-acetoxymethyl-5-(2-benzyloxycarbonylaminoacetylamino)octahydrocyclopenta[c]-pyrrole-2-carboxylic acid tert-butyl ester
By sequentially following the procedures of Example 3, Parts B and C, and Example 1, Parts A and B, acetic acid 4-(tert-butoxy-carbonylprop-2-ynylamino)-but-2-enyl ester is converted to 4-acetoxymethyl-5-aminooctahydrocyclopenta[c]pyrrole-2-carboxylic acid tert-butyl ester. A solution of this material and benzyloxycarbonyl glycine in acetonitrile is treated sequentially with diisopropylethylamine and TBTU, and the resulting mixture is stirred at room temperature until the reaction is complete. The mixture is concentrated under vacuum yielding a residue. The residue is purified by flash column chromatography providing the title product.

reactant | acetic acid 4-(tert-butoxy-carbonylprop-2-ynylamino)-but-2-enyl ester | C(C)(C)(C)OC(=O)C#CCNCC=CCOC(C)=O | C14H21NO4
reactant | 4-acetoxymethyl-5-aminooctahydrocyclopenta[c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2C(C1)C(C(C2)N)COC(C)=O | C15H26N2O4
reactant | benzyloxycarbonyl glycine | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-acetoxymethyl-5-(2-benzyloxycarbonylaminoacetylamino)octahydrocyclopenta[c]-pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2C(C1)C(C(C2)NC(CNC(=O)OCC2=CC=CC=C2)=O)COC(C)=O | C25H35N3O7
